US04507484
Preparation of 2-(2,4-dichlorophenyl)-3-(piperidinosulphonylmethylthio)-1-(1H-1,2,4-triazol-1-yl)-propan-2-ol
2-(2,4-Dichlorophenyl)-1-mercapto-3-(1H-1,2,4-triazol-1-yl)-propan-2-ol (0.304 g) was stirred in tetrahydrofuran (5 ml) whilst sodium hydride (58 mg of a 50% dispersion in oil, 1.2 equiv.) was added in one portion. After stirring a further five minutes, N-(chloro-methylsulphonyl)piperidine (0.296 g, 1.1 equiv.) was added and heated under reflux for 3 hours. The reaction mixture was allowed to cool to room temperature then poured into an ice/water mixture (20 ml), and extracted with ethyl acetate (3×15 ml). The organic extracts were combined, dried (Na2SO4) and evaporated to a gum, 0.71 g.

reactant | 2-(2,4-Dichlorophenyl)-1-mercapto-3-(1H-1,2,4-triazol-1-yl)-propan-2-ol | 0.304 g | ClC1=C(C=CC(=C1)Cl)C(CS)(CN1N=CN=C1)O | C11H11Cl2N3OS
reactant | sodium hydride | [H-].[Na+]
reactant | N-(chloro-methylsulphonyl)piperidine | 0.296 g, 1.1 equiv. | ClCS(=O)(=O)N1CCCCC1 | C6H12ClNO2S
solvent | tetrahydrofuran | 5 ml | O1CCCC1 | C4H8O
product | 2-(2,4-dichlorophenyl)-3-(piperidinosulphonylmethylthio)-1-(1H-1,2,4-triazol-1-yl)-propan-2-ol | ClC1=C(C=CC(=C1)Cl)C(CN1N=CN=C1)(CSCS(=O)(=O)N1CCCCC1)O | C17H22Cl2N4O3S2
